US04215140
To a two phase system containing 100 ml of water, 100 ml of toluene, 19.0 g (100 mmol) of potassium isopropyl trithiocarbonate and 50 mg of tetrabutyl ammonium bisulfate, a phase transfer catalyst, is added 6.3 ml (100 mmol) of chloroacetonitrile. The temperature of the reaction is maintained at between 20° and 30° C. After 4.5 hours the layers are separated and the toluene layer washed with water, brine, dried with Na2SO4, filtered, and concentrated in vacuo. The residue is distilled to give 11.4 g of isopropyl cyanomethyl trithiocarbonate as a yellow oil, boiling point 110°-113° C. at 0.1 mm Hg.

reactant | water | 100 ml | O | H2O
reactant | potassium isopropyl trithiocarbonate | 100 mmol, 19.0 g | C(SC(C)C)([S-])=S.[K+]
reactant | chloroacetonitrile | 100 mmol, 6.3 ml | ClCC#N | C2H2ClN
catalyst | tetrabutyl ammonium bisulfate | 50 mg | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | isopropyl cyanomethyl trithiocarbonate | 11.4 g | C(SC(C)C)(SCC#N)=S | C6H9NS3
